US06515011B2
1-(3,3,-Diphenylpropanoyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide
N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-1-(3,3-diphenylpropanoyl)-L-prolinamide from the previous step (0.050 g, 0.082 mmol, HPLC RT=2.9 min) was dissolved in EtOAc (2 mL) and cooled with stirring to 0° C. HCl/EtOAc (3.55M, 1.5 mL) was added. Remove bath and stir for 2 hours. HPLC analysis indicated completion and the solvent was removed under reduced pressure. The residue was triturated with Et2O and filtered to give the hydrochloride salt of the title compound as a solid. HPLC RT=1.84 min, Method B; LC-MS M+H=476, 478; 1H NMR, 400 MHz, DMSO-d6, 8.40, (t, J=6 Hz, 1H); 8.16, (br s, 2H); 7.40-7.44, (m, 4H); 7.10-7.32 (m, 9H); 4.48-4.52 (m, 1H); 4.30-4.31, (m, 2H); 4.15-4.17 (m, 1H); 4.07 (s, 2H); 3.58-3.60 (m, 1H); 3.48-3.51 (m, 1H); 2.94, (dd, J=5, 16 Hz, 1H); 1.72-1.99 (m, 5H).

reactant | N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-1-(3,3-diphenylpropanoyl)-L-prolinamide | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2N(CCC2)C(CC(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)C=C(C=C1)Cl | C33H38ClN3O4
reactant | HCl EtOAc | 3.55M, 1.5 mL | Cl.CCOC(=O)C
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 1-(3,3,-Diphenylpropanoyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide | C1(=CC=CC=C1)C(CC(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CN)CCC1)C1=CC=CC=C1 | C28H30ClN3O2
